US04954498
8,8-Dimethyl-2-(4-pyridyl)-5,6,7,8-tetrahydro-lH-imidazo[4,5-g]isoquinoline-5,7-dione.
27 g. (82 mmole) 4,4-dimethyl-6-nitro-7-amino-8- bromo-1,2,3,4-tetrahydroisoquinoline-1,3-dione were hydrogenated in 300 ml. methanol in the presence of 2 g. 10% palladium on charcoal. After separating off the catalyst, the filtrate was evaporated, the residue was mixed with 500 ml. methylene chloride and 50 ml. triethylamine and, while cooling, 24 g. isonicotinic acid chloride hydrochloride slowly introduced. After 4 hours, the methylene chloride was evaporated off, the residue was worked up with water, filtered off with suction and the moist residue heated under reflux for 20 hours in 500 ml. ethanol and 200 ml. concentrated hydrochloric acid. The evaporation residue was subsequently mixed with water, neutralised and purified by column chromatography (silica gel, elution agent: methylene chloride/ methanol saturated with ammonia; 10:1 v/v). After recrystallisation from ethanol/water, there were obtained 12.2 g. (51% of theory) of the title compound; m.p. above 300° C.

reactant | 4,4-dimethyl-6-nitro-7-amino-8- bromo-1,2,3,4-tetrahydroisoquinoline-1,3-dione | 82 mmole | CC1(C(NC(C2=C(C(=C(C=C12)[N+](=O)[O-])N)Br)=O)=O)C | C11H10BrN3O4
catalyst | palladium on charcoal | [Pd] | Pd
solvent | methanol | CO | CH4O
product | 8,8-Dimethyl-2-(4-pyridyl)-5,6,7,8-tetrahydro-lH-imidazo[4,5-g]isoquinoline-5,7-dione | CC1(C(NC(C=2C=C3C(=CC12)NC(=N3)C3=CC=NC=C3)=O)=O)C | C17H14N4O2
